US06492398B1
Preparation of 8-[Ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one
To a 250-mi round bottom flask was added a stir bar, 6,8-dihydro-7H-[1,3]thiazolo[5,4-e]indol-7-one (4.0 g, 0.021 mol), 40 mL of glacial acetic and diethoxymethyl acetate (17.0 g, 0.105 moles). The flask was fitted with a reflux condensor and charged with nitrogen. The reaction was heated to reflux for 8 h. The flask was cooled, the stir bar was removed and the reaction was concentrated to a wet solid. The solid was triturated with a solution of ether and ethanol. The mixture was filtered, and the solid was washed with an ethanol-ether solution and was dried under vacuum to yield the title compound: 1H NMR (DMSO-d6):δ 10.5 (s, 1H), 9.1 (s, 1H), 7.8 (d, 1H), 7.7 (s, 1H), 7.0 (d, 1H), 4.5 (q, 2H), 1.4 (t, 3H); APCI-MS m/z 245 (M-H)−.

reactant | 6,8-dihydro-7H-[1,3]thiazolo[5,4-e]indol-7-one | 0.021 mol, 4.0 g | S1C=NC=2C1=C1CC(NC1=CC2)=O | C9H6N2OS
reactant | diethoxymethyl acetate | 0.105 moles, 17.0 g | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | acetic | 40 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 8-[Ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one | C(C)OC=C1C(NC2=CC=C3C(=C12)SC=N3)=O | C12H10N2O2S
